US05380635
A stirred mixture of 1.411 g of 1,8-diaminonaphthalene, 1.629 g of 4-chlorobutyro-phenone, 3 mg of p-toluenesulfonic acid monohydrate, and 10 mL of toluene was heated to reflux under a nitrogen atmosphere using a Dean-Stark trap to remove the water evolved from the reaction for 10 hr. The mixture was filtered to remove unreacted starting material, partioned between ethyl acetate and 5% sodium hydroxide solution, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give 2.04 g of crude product. This was further purified by chromatography on silica gel, eluting with 1:1 diethyl ether/petroleum ether, and collecting the initial band to yield 0.719 g of dihydroperimidine intermediate.

reactant | 1,8-diaminonaphthalene | 1.411 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | 4-chlorobutyro-phenone | 1.629 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
catalyst | p-toluenesulfonic acid monohydrate | 3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | dihydroperimidine | 0.719 g | N1CNC2=CC=CC3=CC=CC1=C23 | C11H10N2
